US07138075B2
2-Chloro-5-nitrobenzenethiol (Method c)
To a solution of 2-chloro-5-nitrophenyl thiocyanate (4.38 g, 20.4 mmole) in dry DMF (70 mL) under inert atmosphere, excess sodium borohydride (1.1 g) was added. The mixture was stirred for half hour and poured over crushed ice. The mixture was acidified with 1 N HCl and left at 0° C. for 1 hr. The precipitate were collected by filtration and redissolved in CH2Cl2. The organic layer was further washed with water and dried with MgSO4. The solvent was removed in vacuo to afford yellow crystals. The product was used in the next step without further purification. 1H NMR (300 MHz, d6-acetone) δ: 8.42 (d, 1H, J=2.7 Hz), 7.98 (dd, 1H, J=8.7, 2.7 Hz), 7.68 (d, 1H, J=8.7 Hz), 5.26 (bs, 1H). 13C NMR (75 MHz, d6-acetone) δ: 147.5, 137.9, 136.4, 131.2, 124.8, 121.7. HR-MS (EI): calcd. for C6H4ClNO2S 189.9646 [M+]. found 189.9646.

reactant | 2-chloro-5-nitrophenyl thiocyanate | 20.4 mmole, 4.38 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])SC#N | C7H3ClN2O2S
reactant | sodium borohydride | 1.1 g | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-5-nitrobenzenethiol | ClC1=C(C=C(C=C1)[N+](=O)[O-])S | C6H4ClNO2S
